US07612091B2
4,5-Dichloro-2-formyl-benzoic acid
A suspension of 3-bromo-5,6-dichloro-3H-isobenzofuran-1-one (2.0 g) in 5% aqueous HCl (10 mL) and 80% aqueous dioxane (25 mL) were heated to reflux for 2 hours. The solvent was removed and the resulting residue re-dissolved in ethyl acetate, dried (magnesium sulfate) and concentrated. The resultant yellow solid was recrystallized from DCM/hexane to give the sub-title compound as a white solid (1.13 g, 73%); 1H NMR (400 MHz, CDCl3) δ 6.66 (0.84H, s), 7.95 (0.16H, s), 8.05 (0.84H), 8.12 (0.16H, s), 8.14 (0.84H, s), 8.41 (0.84H,), 10.41 (0.16H, s), 11.07 (0.16H, brs).

reactant | 3-bromo-5,6-dichloro-3H-isobenzofuran-1-one | 2.0 g | BrC1OC(C2=CC(=C(C=C12)Cl)Cl)=O | C8H3BrCl2O2
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 10 mL | Cl | ClH
product | 4,5-Dichloro-2-formyl-benzoic acid | 1.13 g, 73% | ClC1=CC(=C(C(=O)O)C=C1Cl)C=O | C8H4Cl2O3
